US09328118B2
60% sodium hydride (109 mg) was added to a mixture of triethyl phosphonoacetate (1.02 g) and THF (12 mL) at 0° C. in a nitrogen atmosphere, and the mixture was stirred at room temperature for 10 minutes. 3-Benzyl-3-azabicyclo[3.2.1]octan-8-one (978 mg) and DMF (5 mL) were added to the mixture, and the mixture was stirred at room temperature overnight. After water was added to the reaction mixture, extraction thereof was performed using EtOAc, and the extract was washed with saturated brine. The organic layer was dried over MgSO4 and filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Hex:EtOAc=97:3 to 80:20), whereby ethyl(3-benzyl-3-azabicyclo[3.2.1]oct-8-ylidene)acetate (362 mg) was obtained as a colorless liquid.

reactant | sodium hydride | 109 mg | [H-].[Na+]
reactant | THF | 12 mL | C1CCOC1 | C4H8O
reactant | 3-Benzyl-3-azabicyclo[3.2.1]octan-8-one | 978 mg | C(C1=CC=CC=C1)N1CC2CCC(C1)C2=O | C14H17NO
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | ethyl(3-benzyl-3-azabicyclo[3.2.1]oct-8-ylidene)acetate | 362 mg | C(C)OC(C=C1C2CN(CC1CC2)CC2=CC=CC=C2)=O | C18H23NO2
